US06884813B2
Preparation of N-[[(5S)-3-[4-(3,4-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]-2,2,2-trifluoroacetamide
Trifluoroacetic anhydride (0.63 g, 3.0 mmol) is added dropwise with stirring to a solution of (5S)-5-(aminomethyl)-3-[3-fluoro-4-(tetrahydro-1-oxido-2H-thiopyran-4-yl)phenyl]-2-oxazolidinone (0.326 g, 1.0 mmol; prepared as described in U.S. Pat. No. 5,968,962) and 4-methylmorpholine (0.808 g, 8.0 mmol) in DCM (20 mL) at ca. 0° C. under nitrogen atmosphere. The mixture is allowed to warm up to r.t. and stirred for another 5 h. Solvent is removed under vacuum and the crude product is purified by silica gel column chromatography (eluent EtOAC—hexanes 1:1).

reactant | Trifluoroacetic anhydride | 3.0 mmol, 0.63 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (5S)-5-(aminomethyl)-3-[3-fluoro-4-(tetrahydro-1-oxido-2H-thiopyran-4-yl)phenyl]-2-oxazolidinone | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1CCS(CC1)=O)F | C15H19FN2O3S
reactant | 4-methylmorpholine | 8.0 mmol, 0.808 g | CN1CCOCC1 | C5H11NO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[[(5S)-3-[4-(3,4-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]-2,2,2-trifluoroacetamide | S1CCC(C=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C(F)(F)F)=O)=O)F | C17H16F4N2O3S
